US06624158B2
(2R,3R,4R,5R)-4-(Acetyloxy)-2-(6-[(2,2-diphenylethyl)amino]-2-{[(isobutylsulphonyl)amino]methyl}9H-purin-9-yl)-5-(5-ethyl-1,2,4-oxadiazol-3-yl)tetrahydro-3-furanyl acetate
Prepared by the same method as Preparation 26 from N-({6-[(2,2-diphenylethyl)amino]-9H-purin-2-yl}methyl)-2-methyl-1-propanesulphonamide hydrochloride (Preparation 8) and (2R,3R,4R,5S)-4,5-bis(acetoxy)-2-(5-ethyl-1,2,4-oxadiazol-3-yl)tetrahydro-3-furanyl acetate (Preparation 38).

reactant | N-({6-[(2,2-diphenylethyl)amino]-9H-purin-2-yl}methyl)-2-methyl-1-propanesulphonamide hydrochloride | Cl.C1(=CC=CC=C1)C(CNC1=C2N=CNC2=NC(=N1)CNS(=O)(=O)CC(C)C)C1=CC=CC=C1
reactant | (2R,3R,4R,5S)-4,5-bis(acetoxy)-2-(5-ethyl-1,2,4-oxadiazol-3-yl)tetrahydro-3-furanyl acetate | C(C)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]1OC(C)=O)OC(C)=O)C1=NOC(=N1)CC | C14H18N2O8
product | (2R,3R,4R,5R)-4-(Acetyloxy)-2-(6-[(2,2-diphenylethyl)amino]-2-{[(isobutylsulphonyl)amino]methyl}9H-purin-9-yl)-5-(5-ethyl-1,2,4-oxadiazol-3-yl)tetrahydro-3-furanyl acetate | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)C1=NOC(=N1)CC)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)CNS(=O)(=O)CC(C)C | C36H42N8O8S
